US08729102B2
H) N-[(1S)-2-({5-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-1H-pyrazol-3-yl}oxy)-1-methylethyl]acetamide
Under a hydrogen atmosphere, a mixture of N-[(1S)-2-({1-benzyl-5-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-1H-pyrazol-3-yl}oxy)-1-methylethyl]acetamide (120 mg), 20% palladium hydroxide/carbon (containing water (50%), 60 mg), ethanol (5 mL) and THF (3 mL) was stirred at 50° C. for 4 hr. The catalyst was removed by filtration, and the obtained filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (23.4 mg).

reactant | N-[(1S)-2-({1-benzyl-5-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-1H-pyrazol-3-yl}oxy)-1-methylethyl]acetamide | 120 mg | C(C1=CC=CC=C1)N1N=C(C=C1C=1OC2=C(N1)C=CC(=C2)OCC2CC2)OC[C@H](C)NC(C)=O | C26H28N4O4
reactant | ethanol | 5 mL | C(C)O | C2H6O
catalyst | palladium hydroxide/carbon | 60 mg | [OH-].[OH-].[Pd+2]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-[(1S)-2-({5-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]-1H-pyrazol-3-yl}oxy)-1-methylethyl]acetamide | 23.4 mg | C1(CC1)COC1=CC2=C(N=C(O2)C2=CC(=NN2)OC[C@H](C)NC(C)=O)C=C1 | C19H22N4O4
